US08084448B2
E. 2-(3-Benzyloxy-4-nitrobenzyl)-cyclohexanone Oxime
A mixture of 2-(3-benzyloxy-4-nitrobenzyl)-cyclohexanone (1.0 g, 2.95 mmol), hydroxylamine hydrochloride (407 mg, 5.9 mmol) and sodium acetate (726 mg, 8.85 mmol) in MeOH (20 mL)/water (4 mL) is stirred at RT for 18 h. The resulting precipitate is filtered and washed with water to give the title compound as a yellow solid: (M+1)+=355.

reactant | 2-(3-benzyloxy-4-nitrobenzyl)-cyclohexanone | 2.95 mmol, 1.0 g | C(C1=CC=CC=C1)OC=1C=C(CC2C(CCCC2)=O)C=CC1[N+](=O)[O-] | C20H21NO4
reactant | hydroxylamine hydrochloride | 5.9 mmol, 407 mg | Cl.NO
reactant | sodium acetate | 8.85 mmol, 726 mg | C(C)(=O)[O-].[Na+]
reactant | water | 4 mL | O | H2O
solvent | MeOH | 20 mL | CO | CH4O
product | 2-(3-Benzyloxy-4-nitrobenzyl)-cyclohexanone Oxime | C(C1=CC=CC=C1)OC=1C=C(CC2C(CCCC2)=NO)C=CC1[N+](=O)[O-] | C20H22N2O4
